US04261855
B. 2-(p-Formyl-phenyl)-4-carboethoxy-2H-1,2,3-triazole
If methanol or isopropanol is used in place of ethanol in the reaction with the carboxylic acid chloride of 2-(p-tolyl)-4-carboxy-2H-1,2,3-triazole, the corresponding methyl ester or, respectively, isopropyl ester is obtained. These esters can be converted, in the manner described above, into 2-(p-formyl-phenyl)-4-carbomethoxy-2H-1,2,3-triazole (melting point: 125° to 127° C.) and, respectively, 2-(p-formyl-phenyl)-4-carboisopropoxy-2H-1,2,3-triazole (melting point: 100° to 102° C.).

reactant | 2-(p-formyl-phenyl)-4-carbomethoxy-2H-1,2,3-triazole | C(=O)C1=CC=C(C=C1)N1N=CC(=N1)C(=O)OC | C11H9N3O3
reactant | 2-(p-formyl-phenyl)-4-carboisopropoxy-2H-1,2,3-triazole | C(=O)C1=CC=C(C=C1)N1N=CC(=N1)C(=O)OC(C)C | C13H13N3O3
product | 2-(p-Formyl-phenyl)-4-carboethoxy-2H-1,2,3-triazole | C(=O)C1=CC=C(C=C1)N1N=CC(=N1)C(=O)OCC | C12H11N3O3
